US05237063
2-Amino-4-chlorodifluoromethoxy-6-fluoropyrimidine
9.8 g (0.578 mol) of gaseous ammonia were passed over the course of one hour into a stirred mixture of 62.5 g (0.289 mol) of 2,4-difluoro-6-chlorodifluoromethoxypyrimidine and 300 ml of tetrahydrofuran at -75 to -70° C. The mixture was stirred at -70° C. for one hour and then warmed to room temperature. The precipitate was filtered off with suction and partitioned between ethyl acetate and water, and the organic phase was dried over magnesium sulfate, filtered and concentrated. The residue was dissolved in ethyl acetate, chromatographed on silica gel with 5:1 petroleum ether/ether and concentrated. 46.5 g (75.3% of theory) of the title compound were obtained as colorless crystals of melting point 77°-80° C.

reactant | ammonia | 0.578 mol, 9.8 g | N | H3N
reactant | 2,4-difluoro-6-chlorodifluoromethoxypyrimidine | 0.289 mol, 62.5 g | FC1=NC(=C(C(=N1)F)OC(F)F)Cl | C5HClF4N2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-Amino-4-chlorodifluoromethoxy-6-fluoropyrimidine | NC1=NC(=C(C(=N1)Cl)OC(F)F)F | C5H3ClF3N3O
